Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
fall from standing 
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ hx HTN, HLD, chronic bradycardia (baseline HR ___ who 
presents s/p fall from standing. He reports feeling preceding 
dizziness/lightheadedness and losing consciousness prior to 
falling onto a concrete fall with obvious head strike. His 
family called the paramedics and he was taken to ___ 
for evaluation. A CT showed a fracture of the right temporal 
bone with minimal displacement, bilateral orbital floor 
fractures, nasal fracture, a small R subdural hemorrhage and R 
IPH.  He was transferred to ___ for further workup.  He 
endorses facial pain but denies pain elsewhere on his body. No 
visual or hearing disturbances. He reports having felt 
lightheaded upon standing in the past but has never lost 
consciousness previously. He has seen a cardiologist previously 
for his bradycardia but without intervention.
 
Past Medical History:
HTN
HLD
Bradycardia (baseline runs 35-40 bpm)

Umbilical hernia repair
Open cholecystectomy 
 
Social History:
___
Family History:
Bradycardia runs in the family
 
Physical Exam:
General - Heavily bruised man in NAD
HEENT - Bruising around the right eye with right eyelid 
swelling,
able to open eyes, PERRLA, EOMI, abrasion over the bridge of the
nose with blood in the nares but no septal hematoma; tenderness
over right maxillary bone, above the right eye and over the
bridge of the nose; no oral lesions or missing teeth, no
abrasions on the chin Cardiovascular - bradycardia, no murmur
Respiratory - Good air movement, CTAB with bibasalar crackles, 
no
rhonchi or wheezes
GI - soft, nondistended, nontender, no rebound or guarding
Musculoskeletal - no point tenderness along spine, trunk or
extremities
Neuro - CNS grossly intact, ___ grip, UE, ___ and ankle strength
 
Pertinent Results:
___ 04:20AM   GLUCOSE-191* UREA N-29* CREAT-1.0 SODIUM-144 
POTASSIUM-3.6 CHLORIDE-103 TOTAL CO2-28 ANION GAP-13
___ 04:20AM   estGFR-Using this
___ 04:20AM   cTropnT-<0.01
___ 04:20AM   CALCIUM-9.6 PHOSPHATE-3.1 MAGNESIUM-2.1
___ 04:20AM   WBC-10.7* RBC-4.90 HGB-14.3 HCT-42.1 MCV-86 
MCH-29.2 MCHC-34.0 RDW-11.9 RDWSD-36.7
___ 04:20AM   NEUTS-91.2* LYMPHS-4.8* MONOS-3.4* EOS-0.0* 
BASOS-0.2 IM ___ AbsNeut-9.79* AbsLymp-0.52* AbsMono-0.37 
AbsEos-0.00* AbsBaso-0.02
___ 04:20AM   PLT COUNT-165
___ 04:20AM   ___ PTT-29.7 ___

TTE ECHO ___: 
IMPRESSION: Mild symmetric left ventricular hypertrophy with 
normal cavity size and regional/ global biventricular systolic 
function. Mild pulmonary artery systolic hypertension. Mildly 
dilated thoracic aorta.
 
Brief Hospital Course:
___ hx chronic bradycardia, HTN p/w fall from standing in 
setting of syncope with head strike, injuries: R SDH, R IPH, R 
temporal fx, nasal fx, b/l orbital floor fx. The patient was 
placed on a regular diet. NSG, plastics, ENT, and optho were 
consulted and left recommendations. Cardiology was called for 
chronic bradycardia. The patient will have follow up in ___ 
clinic, ___ clinic, and PRS with Dr. ___ in two weeks. The 
patient was discharged from the hospital in stable condition and 
also asked to follow up in ___ clinic. 

 
Medications on Admission:
1.  Acetaminophen 1000 mg PO Q8H:PRN Pain - Mild  
2.  amLODIPine 5 mg PO DAILY  
3.  Hydrochlorothiazide 12.5 mg PO DAILY  
4.  Latanoprost 0.005% Ophth. Soln. 1 DROP BOTH EYES QHS  
5.  Lisinopril 10 mg PO DAILY  
6.  Pravastatin 20 mg PO QPM  
7.  Timolol Maleate 0.5% 1 DROP BOTH EYES DAILY  

 
Discharge Medications:
1.  Acetaminophen 1000 mg PO Q8H:PRN Pain - Mild  
2.  amLODIPine 5 mg PO DAILY  
3.  Hydrochlorothiazide 12.5 mg PO DAILY  
4.  Latanoprost 0.005% Ophth. Soln. 1 DROP BOTH EYES QHS  
5.  Lisinopril 10 mg PO DAILY  
6.  Pravastatin 20 mg PO QPM  
7.  Timolol Maleate 0.5% 1 DROP BOTH EYES DAILY  

 
Discharge Disposition:
Home with Service
 
Discharge Diagnosis:
___ hx chronic bradycardia, HTN p/w fall from standing in 
setting of syncope with head strike, injuries: R SDH, R IPH, R 
temporal fx, nasal fx, b/l orbital floor fx

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Please call your doctor or nurse practitioner or return to the 
Emergency Department for any of the following:
*You experience new chest pain, pressure, squeezing or 
tightness.
*New or worsening cough, shortness of breath, or wheeze.
*If you are vomiting and cannot keep down fluids or your 
medications.
*You are getting dehydrated due to continued vomiting, diarrhea, 
or other reasons. Signs of dehydration include dry mouth, rapid 
heartbeat, or feeling dizzy or faint when standing.
*You see blood or dark/black material when you vomit or have a 
bowel movement.
*You experience burning when you urinate, have blood in your 
urine, or experience a discharge.
*Your pain in not improving within ___ hours or is not gone 
within 24 hours. Call or return immediately if your pain is 
getting worse or changes location or moving to your chest or 
back.
*You have shaking chills, or fever greater than 101.5 degrees 
Fahrenheit or 38 degrees Celsius.
*Any change in your symptoms, or any new symptoms that concern 
you.

Please resume all regular home medications, unless specifically 
advised not to take a particular medication. Also, please take 
any new medications as prescribed.

Please get plenty of rest, continue to ambulate several times 
per day, and drink adequate amounts of fluids. Avoid lifting 
weights greater than ___ lbs until you follow-up with your 
surgeon.

Avoid driving or operating heavy machinery while taking pain 
medications.

 
Followup Instructions:
___